US04462943
A solution of 1-(L-alanyl)-4-(S)-(phenylmethyl)-L-proline and ethyl 2-oxo-4-phenylbutyrate in ethanol is stored at room temperature with powdered molecular sieves. Over the course of several hours, sodium cyanoborohydride is added and the reaction mixture is filtered and concentrated under reduced pressure. The residue is purified by absorption on ion exchange resin to yield 1-[N-(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl]-4-(S)-(phenylmethyl)-L-proline.

reactant | 1-(L-alanyl)-4-(S)-(phenylmethyl)-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)C[C@@H](C1)CC1=CC=CC=C1 | C15H20N2O3
reactant | ethyl 2-oxo-4-phenylbutyrate | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[N-(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl]-4-(S)-(phenylmethyl)-L-proline | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)C[C@@H](C1)CC1=CC=CC=C1 | C27H34N2O5
